* C:\users\ashmita\Desktop\ASHMITA\APanda_Lib_LTSpice\Chua_TL082\chua_TL082.asc
XU1 N002 N008 N005 N006 N004 TL082
XU2 N002 N007 N005 N006 N003 TL082
R1 N004 N002 220 tol=5
R2 N004 N008 220 tol=5
R3 N008 0 2.2k tol=5
V2 0 N006 9V
V1 N005 0 9V
R4 N003 N002 22k tol=5
R5 N003 N007 22k tol=2
R6 N007 0 3.3k tol=5
R7 N002 N001 1.48k
C1 N002 0 10n
L1 0 N001 18m
C2 N001 0 100n
* NR
* V(n002)
* V(n001)
* Non-linear Resistance (NR)
.tran 0 0.1 0 1E-05 startup
.lib TL082.sub
.backanno
.end
