* C:\users\ashmita\Desktop\ASHMITA\APanda_Lib_LTSpice\NR1\NR1.asc
XU1 N001 N005 N003 N004 N002 TL082
R1 N002 N001 220 tol=5
R2 N002 N005 220 tol=5
R3 N005 0 2.2k tol=5
V2 0 N004 9V
V1 N003 0 9V
V3 N001 N006 V
R 0 N006 100 tol=5
.dc V3 -10V 10V 100mV
* NR1
* VR
* Variable DC Voltage
.lib TL082.sub
.backanno
.end
