* C:\users\ashmita\Desktop\ASHMITA\APanda_Lib_LTSpice\NR2\NR2.asc
XU1 N001 N005 N003 N004 N002 TL082
R4 N002 N001 22k tol=5
R5 N002 N005 22k tol=5
R6 N005 0 3.3k tol=5
V2 0 N004 9V
V1 N003 0 9V
V3 N001 N006 V
R 0 N006 100 tol=5
* NR2
* VR
* Variable DC Voltage
.dc V3 -8V 8V 100mV
.lib TL082.sub
.backanno
.end
